US07087626B2
1-Benzyloxy-4-phenyl-butan-2-ol
Benzyloxy-acetaldehyde (3.0 g, 20 mmol) is dissolved in tetrahydrofuran (200 mL), cooled to −78° C. This solution is treated with phenylethylmagnesium chloride (1.0 M in tetrahydrofuran, 24 mL, 24 mmol), and stirred for one hour. The mixture is allowed to warm to room temperature and stirred for 4 h. The mixture is treated with hydrochloric acid (1 M, 40 mL) and extracted with ethyl acetate. The combined organic extracts are washed with water and brine, dried over sodium sulfate, and filtered. The filtrate is concentrated in vacuo to provide the title compound, 4.0 g (80%), as a colorless liquid.

reactant | Benzyloxy-acetaldehyde | 20 mmol, 3.0 g | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | phenylethylmagnesium chloride | 24 mmol, 1.0 M, 24 mL | C1(=CC=CC=C1)CC[Mg]Cl
reactant | hydrochloric acid | 1 M, 40 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-Benzyloxy-4-phenyl-butan-2-ol | C(C1=CC=CC=C1)OCC(CCC1=CC=CC=C1)O | C17H20O2
